US07960400B2
(2-Ethoxycarbonylmethyl-phenyl)-acetic acid ethyl ester (2)
1,2-phenylenediacetonitrile (1.0 g, 6.40 mmol) was dissolved in 5 ml ethyl alcohol and 2 ml concentrated sulfuric acid in a 25 ml round bottom flask. The mixture was stirred and heated to reflux for 6 hours. After neutralizing the reaction solution with ammonium hydroxide, the result solution was extracted with ethyl acetate (3×50 ml). The organic phase was combined and dried with Na2SO4. Concentration of the ethyl acetate afforded a yellow liquid. Running column with hexane: acetyl acetate=10:1, got yellow liquid 1.13 g (70.6%). 1H NMR (DMSO-d6): δ 1.24 (t, 6H, CH3), δ 3.7 (s, 4H, CH2CO), δ 4.16 (q, 4H, OCH2), δ 7.3 (d, 4H, Ar—H).

reactant | 1,2-phenylenediacetonitrile | 6.40 mmol, 1.0 g | C1(=C(C=CC=C1)CC#N)CC#N | C10H8N2
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | acetyl acetate | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl alcohol | 5 ml | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
product | (2-Ethoxycarbonylmethyl-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC=C1)CC(=O)OCC)=O | C14H18O4
